Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Scrotal abscess

 
Major Surgical or Invasive Procedure:
Incision and drainage of peroneal abscess
Trans-esophageal echocardiogram

 
History of Present Illness:
___ year-old male previously healthy male with history of IVDU, 
who initially presented with a peroneal abscess and concern for 
peroneal necrotizing fasciitis, and multiple sepitc lung emboli. 
The abscess was first noted as a small pimple 5 days prior to 
presentation (___) and has progressively enlarged and become 
more painful.  He had severals days of fevers and chills and 
started experiencing pleuritic chest pain, worse with 
inspiration. He also complained of cough prior to presentation. 
The day he presented, he noted an area of induration and 
erythema on left shin.  
.
Patient underwent I&D of abscess on ___. An idurated, 
purulent area in the scrotal raphe and an area on the left 
buttock were opened.  Pustular sinus tracts with necrotizing 
soft tissue wre found and debrided.  Following procedure, 
patient was admitted to the SICU for close monitoring given 
concern for SIRS/sepsis. Patient initially treated with 
clindamycin, piperacillin-Tazobactam, gentamicin, and 
vancomycin. Patient grew GPC in ___ bottles. Pt had CXR which 
showed hypodensities, concerning for septic emboli. On CT chest 
he was found to have numerous bilateral pulmonary nodules, all 
concerning for septic embolic, infarcts, and disseminated 
infection felt secondary to abscess.  TTE was negative for 
vegatations.
.
ID was consulted and felt that the source of the bacteremia and 
septic emboli was likely his scrotal abscess. The recommended 
continuing broad spectrum antibiotics because of polymicrobial 
nature of scrotal abscesses, including clindamycin to cover for 
necrotizing fasciitis. The gentamycin was discontinued. 
.
Overnight, on ___, oxygen saturation decreased to mid to high 
___ on 4L NC.  Patient was noted to have increased work of 
breathing.  He was transitioned to NRB and oxygen saturation 
improved to low ___, but patient continued to have increased 
WOB.  He was transitioned to BIPAP mask and his breathing 
symptoms improved.  Given worsening respiratory status and 
persistent tachycardia, patient underwent CTA to assess for PE, 
which showed no PE, but does show worsening right sided 
non-hemorrhagic pleural effusion.  
.  
On transfer to the MICU, patient is comfortable and feels like 
his breathing is more comfortable on BIPAP.  Scrotal pain is 
well controlled with current regimen.  Patient reports having 
fevers and chills overnight.  
.  
Review of systems:  
(+) Per HPI. Constipation, has not moved bowels since admission. 
 
(-) Denies night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denies 
wheezing. Denies  chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, abdominal pain, or changes in 
bowel habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias.
 
Past Medical History:
Left shoulder surgery ___ 
No history of skin infections

 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
Physical Exam on Admission:
Vitals: Tm: 101.1, Tc: 99.3, BP: 138/73 P: 89 R: 21 O2: 98% on 
BIPAP  
General: On BIPAP, appears comfortable 
HEENT: Sclera anicteric, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV:  Tachy, regular rhythm, no murmurs/rubs/gallops
Lungs: Dull at bases b/l R > L, coarse breath sounds b/l, no 
wheezes
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: Foley in place, scrotal wound packed with wet to dry 
dressings, no drainage or surrounding erythema
Ext: warm, well perfused, 2+ pulses, 3 cm x 3cm area of 
induration noted on left anterior shin, non-fluctuant
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact 

Physial Exam on Discharge:
Vitals: T98.7, BP:144/84, HR:101, RR:20, O2st: 94%RA
General: breathing comfortably on room air
CV: RRR, no M/R/G
LUNGS: rales in right lung base and right middle lobe
GU: foley removed, scrotal wound packed
Ext: Anterior shin wound packed with wick
Exam otherwise unchanged from admission
 
Pertinent Results:
Lab Results on Admission:

___ 08:30PM BLOOD WBC-22.4* RBC-4.55* Hgb-14.6 Hct-42.1 
MCV-93 MCH-32.1* MCHC-34.8 RDW-11.3 Plt ___
___ 08:30PM BLOOD Neuts-81* Bands-1 Lymphs-13* Monos-5 
Eos-0 Baso-0 ___ Myelos-0
___ 08:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:30PM BLOOD Glucose-127* UreaN-10 Creat-0.7 Na-137 
K-4.1 Cl-103 HCO3-23 AnGap-15
___ 06:10PM BLOOD HIV Ab-NEGATIVE
___ 02:42AM BLOOD Type-ART pO2-62* pCO2-44 pH-7.39 
calTCO2-28 Base XS-0
___ 08:38PM BLOOD Lactate-1.4

Studies:

___ Skin Biopsy: DIAGNOSIS: 
1.  Skin and soft tissue, scrotal raphe; debridement (A-C):

1.Cutaneous acute inflammation with abscess formation, tissue 
necrosis, and surface bacterial organisms.
2.Special stains for microorganisms in process, to be reported 
in an addendum.
2.  Skin, left buttock; debridement (D-E):
1.Cutaneous acute inflammation and abscess formation with tissue 
necrosis.
2.Special stains for microorganisms in process, to be reported 
in an addendum.

___ ECG: Sinus tachycardia. Left axis deviation. No previous 
tracing available for 
comparison.  

___ CXR: IMPRESSION: Ill-defined nodular opacities primarily 
within the lung bases. Findings are concerning for infectious 
process such as septic emboli, and a CT can be obtained for 
further evaluation. 

___ transthoracic Echo: The left atrium is dilated. The right 
atrium is moderately dilated. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Left ventricular systolic function is hyperdynamic 
(EF>75%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). There is a mild 
resting left ventricular outflow tract obstruction. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Physiologic mitral 
regurgitation is seen (within normal limits). The tricuspid 
valve leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is a very small pericardial 
effusion. 
No vegetation seen (cannot definitively exclude).

___ CTPA: IMPRESSION: 
1. No pulmonary embolism within the limitations of the study. 
2. Numerous pulmonary nodules compatible with septic emboli. 
Bilateral lower lobe peripheral heterogenous opacities are now 
largely obscured by atelectasis are indeterminate but could also 
be due to septic emboli with possible infarction. 
3. Small-to-moderate bilateral pleural effusions, increased from 
the study 
one day prior.   
4. Regions of low attenuation within bilateral atelectasis, 
concerning for 
pneumonia. 
 
___ LLE U/S: IMPRESSION: Serpiginous-appearing hypoechoic 
structure left anterior shin, 
possibly representing a fluid collection or alternatively 
superficial 
thrombophlebitis of a markedly distended venous structure. 
Clinical 
correlation is recommended. 

___ CXR: IMPRESSION: 
1. Lung volumes remain low. There is more focal patchy nodular 
opacity at 
the left apex as well as in the right upper to mid lung which 
appears somewhat cavitary and may reflect known septic emboli 
which are now radiographically visible. More focal patchy 
opacity at the right lung base is also present and could 
represent a combination of compressive atelectasis, pneumonia 
and/or evolving septic embolic areas. The more rounded 
appearance to the right costophrenic angle is slightly less 
apparent on the current examination but still could represent 
loculated pleural fluid. The heart remains enlarged but 
unchanged which may reflect cardiomegaly or pericardial 
effusion. Interval improvement in aeration at the left lung base 
with no definite left pleural effusion identified on the current 
examination. Stable mediastinal contours. No evidence of 
pulmonary edema. 
.
___ TEE: No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium/left atrial appendage or the body of 
the right atrium/right atrial appendage. No atrial septal defect 
is seen by 2D or color Doppler. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The ascending, 
transverse and descending thoracic aorta are normal in diameter 
and free of atherosclerotic plaque to 45 cm from the incisors. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. No masses or vegetations are seen on the 
aortic valve. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
No mass or vegetation is seen on the mitral valve. No 
vegetation/mass is seen on the pulmonic valve. There is a 
trivial/physiologic pericardial effusion. 
IMPRESSION: No valvular pathology or pathologic flow identified.

___ CXR: IMPRESSION: 
1. New left PICC with the tip at least at the estimated location 
of the 
cavoatrial junction but possibly 1-2 cm beyond this. No evidence 
of 
procedural complication.   
2. Possible persistent right loculated pleural effusion. 
Followup with 
conventional PA and lateral radiograph is recommended when 
clinically 
feasible. 

Lab results on Discharge:

___ 06:30AM BLOOD WBC-14.3* RBC-3.88* Hgb-12.1* Hct-36.7* 
MCV-95 MCH-31.2 MCHC-33.0 RDW-12.1 Plt ___
___ 06:20AM BLOOD UreaN-9 Creat-0.6
___ 03:14AM BLOOD Calcium-8.3* Phos-3.6 Mg-2.2
___ 04:40PM BLOOD Vanco-18.0
___ 04:37AM BLOOD Type-ART pO2-81* pCO2-52* pH-7.43 
calTCO2-36* Base XS-8
 
Brief Hospital Course:
Primary Reason for Hospitalization: Patient is a ___ year-old, 
previously healthy, incarcarated male with history of IVDU, who 
initially presented with a peroneal abscess and concern for 
perineal necrotizing fasciitis, and multiple septic lung emboli. 
The perineal wound was drained and showed no necrotizing 
fasciitis. Cultures from the wound and blood grew MRSA and 
patient began treatment with vancomycin. A wound on patient's 
anterior left shin was incised and drained as well. He required 
a brief ICU stay for respiratory distress but was never 
intubated. His fever and shortness of breath resolved and 
patient went to ___ floor. TEE showed no vegetations and patient 
was discharged to complete a 6-week course of vancomycin.
.
ACUTE CARE:
.
1. MRSA bacteremia: Patient had a perineal and buttock wound 
that grew MRSA in culture and blood cultures that grew MRSA as 
well. He was found to have radiographic evidence of septic 
emboli and was febrile with shortness of breath as well. He was 
started on a course of IV vancomycin. Patient received a TEE 
which showed no vegetations. He was discharged to complete a 
6-week course of vancomycin.
.
2. Perineal wound and other buttock and shin wound: Patient's 
initial complaint was a tender, erythemetous wound involving the 
scrotum and perineum. It started off as a pimple-sized lesion 
and grew to involve a large area. Surgery evaluated and debrided 
the wound because of concern for necrotizing fasciitis, which 
was not present. The wound grew MRSA and patient recieved 
vancomycin and wet-to-dry dressing changes. The additional 
wounds on the left anterior shin and left buttock were incised 
and drained and had daily dressing changes as well. He was 
dishcarged with instructions for antibiotics and dressing 
changes to continue.
.
3. Lung Septic Emboli: Patient had septic emboli to the lung as 
evidenced by chest CT. He showed no neurologic signs suggesting 
brain lesions. Because of the lung lesions, patient had a period 
of respiratory distress requiring Bipap in the unit. This and 
patient's fever resolved with antibiotics and he did not require 
intubation. He was weaned to room air and previous pain 
experienced with respiration was greatly decreased. IP evaluated 
patient for a small loculated pleural effusion associated with 
the involved lung, and it was found to be too small to drain. 
CTPA showed no PE on this admission as well
.
CHRONIC CARE:
.
1. IVDU history: Patient was informed about the possibility of 
infection with IVDU and he was made aware that the current 
damage to his veins from this history interferes with vascular 
access.
.
TRANSITIONS IN CARE:
1. FOLLOW UP: Patient will follow up with the medical system 
within the department of corrections. He should receive follow 
up with infectious disease upon finishing the 6-week course of 
vancomycin.
2. CARE TRANSITION: Per request of the DOC, patient will be 
transferred to ___ to complete his inpatient care. 
he should be continued on heparin SC for DVT ppx.
3. VACULAR ACCESS: Patient has a PICC line placed. It was 
initially placed 2 cm too far in as seen on CXR, but was 
retracted 2cm and is OK to use for IV abx now that it is 
properly positioned.
4. CODE STATUS: presumed full

 
Medications on Admission:
none
 
Discharge Medications:
1. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) mL 
Injection TID (3 times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
4. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain: hold for sedation or RR<10.  
6. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. ipratropium bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for dyspnea.  
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever/pain: do not administer more than 
4g per day.  
9. vancomycin 1,000 mg Recon Soln Sig: ___ mg 
Intravenous three times a day for 6 weeks: 6 weeks of therapy to 
be completed with last day ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: MRSA bacteremia
Secondary: Septic emboli to the lungs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you developed a large 
abscess on your scrotum. We also found wounds on your left shin 
and left buttock and areas of infection in the lungs as well. 
The cultures from the wound grew a bacteria called MRSA, and you 
were found to have this growing in your blood stream as well. 
The bacteria spread from one the above-mentioned skin wounds to 
the blood and went to the lungs and other wounds from there. We 
did an ultrasound of your heart that showed no infection in the 
heart itself. 

MRSA is a bacteria that is very resistant to most antibiotic 
treatment, which is why you are being given vancomycin 
intravenously, which does work agaist this bacteria. You will 
need to continue this antibiotic for a total of 6 weeks.

Please start the following medications:
1. START Vancomycin 2g IV q8hr (to be completed ___
2. START Dilaudid 2mg ___ tablets by mouth every 6 hours as 
needed for pain
** This medication can cause sedation and drowsiness
3. START Docusate 100mg by mouth twice daily for constipation
4. START Heparin 5000 units subcutaneously three times daily if 
you are not ambulating
5. START Ipratropium nebulizer as needed for shortness of breath 
or wheezing
6. START Ranitidine 150mg by mouth twice daily for heartburn
7. START Tylenol as needed for pain (do not exceed 4g in one 
day)
 
Followup Instructions:
___